US05736539
1-Benzyl-3(S)-(2-methylthioethyl)piperazine-2,5-dione
The title compound was prepared according to the procedure described in Example 2, Step A, except using Boc-L-methionine (10.0 g, 40.0 mmol), ethyl N-benzylglycinate (7.75 g, 40.0 mmol), HOBT (5.41 g, 40.0 mmol) and EDC.HCl (7.68 g, 40.00 mmol) in dimethylformamide. Upon completion of the reaction, the dimethylformamide was removed in vacuo and the crude product partitioned between ethyl acetate and water. The organic phase was washed with water and saturated sodium chloride solution, then dried over sodium sulfate. The solvent was removed in vacuo and the residue taken up in methylene chloride (200 mL). Trifluoroacetic acid (100 mL) was added and the reaction stirred at 20° C. for 2 h. The volatiles were removed in vacuo and the residue partitioned between ethyl acetate and saturated sodium bicarbonate solution. The organic phase was washed with saturated sodium chloride solution and dried over magnesium sulfate. The title compound was obtained as a white solid (9.08 g). NMR (CHCl3, 300 MHz) δ 7.4-7.2 (6H, m); 4.60 (2H, AB q, J=13 Hz); 4.24 (1H, m); 3.85 (2H, AB q, J=18 Hz); 2.63 (2H, t, J=7Hz); 2.3-2.1 (2H, m); 2.1 (3H, s).

reactant | Boc-L-methionine | 40.0 mmol, 10.0 g | C(=O)(OC(C)(C)C)N[C@@H](CCSC)C(=O)O | C10H19NO4S
reactant | ethyl N-benzylglycinate | 40.0 mmol, 7.75 g | C(C1=CC=CC=C1)NCC(=O)OCC | C11H15NO2
reactant | HOBT | 40.0 mmol, 5.41 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 40.00 mmol, 7.68 g | CCN=C=NCCCN(C)C.Cl
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-Benzyl-3(S)-(2-methylthioethyl)piperazine-2,5-dione | C(C1=CC=CC=C1)N1C([C@@H](NC(C1)=O)CCSC)=O | C14H18N2O2S
